Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Eggs / wool / bee stings
 
Attending: ___.
 
Chief Complaint:
Left upper lobe lung cancer.
 
Major Surgical or Invasive Procedure:
___  Cervical mediastinoscopy, VATS, left upper
lobectomy, mediastinal lymph node dissection and bronchoscopy
with lavage.

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a former smoking
history (30 pack year) now seen for repeat evaluation of a newly
identified squamous cell cancer of his left upper lobe.  He was
previously seen in thoracic surgery clinic several weeks ago for
initial evaluation of a newly identified left upper lobe lesion
found incidentally on routine chest x-ray.  Workup performed at
that time included a chest CT which demonstrated a 3.9 cm
irregularly shaped mass within the left upper lobe with some
interstitial extension into the posterior pleural space. 
Multiple mediastinal and hilar lymph nodes were identified on
this CT scan, for which he underwent subsequent endobronchial
ultrasound and biopsy.  At the time of biopsy, endobronchial
lesion was noted within the left upper lobe specifically the AP
segment, and was biopsied.  FNA of station 4R nodes was
additionally performed, without any additional  lymphadenopathy
seen.  Pathology of the biopsied left upper lobe mass was
revealing of squamous cell carcinoma, all cytology of the 
station
4R nodes was unrevealing for cancer.  PET/CT obtained on 
___ identified a focus of increased FDG avidity within the 
anterior
right thyroid without a discrete nodule identified.  Within the
chest, the left upper lobe lesion again appeared spiculated,
measuring 4.7 x 3.1 cm in dimension, and was intensely FDG avid
with an SUV max of 25.2.  This mass was noted to extend
superiorly to the level of the left hilum, where there was noted
to be several FDG avid left para-aortic nodes with an SUV max of
4.2, as well as an enlarged right upper paratracheal node with 
an
SUV max of 5.4.  There additionally appeared to be an enlarged
and FDG avid left hilar node, with an SUV max of 6.7.

Mr. ___ reports that aside from his radiographic imaging and
biopsy results, he would otherwise be unaware of having a lung
mass.  He specifically denies any changes in his cough or sputum
production.  He denies any new shortness of breath at rest or
with exertion, nausea, vomiting, mental status changes, changes
in vision, confusion, or new bony pains.  He does report an
intermittent sense of chest pressure which is not associated 
with
exertion, and appears to overlie the region of his known
malignancy.  His weight has been stable, and appetite good.  He
reports that he is able to perform his activities of daily 
living
without any difficulty, but does state that he feels more
fatigued than he has done previously.
 
Past Medical History:
                                                        
DEGENERATIVE JOINT DISEASE                                      
DUPUYTRENS CONTRACTURE                                          
ESOPHAGITIS                                                     
GOUT                                                            
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
NOCTURIA                                                        
PEPTIC ULCER DISEASE                                            
VITAMIN D DEFICIENCY                                            
ELEVATED FERRITIN                                               
SHOULDER PAIN                                                   
CERVICAL RADICULOPATHY                                          
ORCHIECTOMY                                                     
CERVICAL RADICULITIS                                            
CHRONIC LOW BACK PAIN                                           
KNEE PAIN                                                       
GASTROESOPHAGEAL REFLUX                                         
ACHALASIA                                                       
NARCOTICS AGREEMENT
h/o Blood clot to left eye
blind in right eye  

PSH
s/p hernia repair x ___
s/p tonsils
 
Social History:
___
Family History:
FAMILY HISTORY:
Mother: died throat cancer
Father: renal failure
___
Offspring
Other
 
Physical Exam:
General: NAD
Respir: non-labored
Incisions: CDI
Extremities: WWP
 
Pertinent Results:
___ 03:37AM BLOOD WBC-8.6 RBC-3.25* Hgb-9.0* Hct-28.8* 
MCV-89 MCH-27.7 MCHC-31.3* RDW-14.9 RDWSD-48.5* Plt ___
___ 03:37AM BLOOD Glucose-132* UreaN-17 Creat-1.2 Na-134* 
K-4.9 Cl-92* HCO3-26 AnGap-16
___ 03:37AM BLOOD Calcium-8.6 Phos-5.2* Mg-1.9
 
Brief Hospital Course:
Patient admitted to the thoracic surgery inpatient service 
following CERVICAL MEDIASTINOSCOPY, mediastinal LYMPH NODE 
dissection, FLEXIBLE BRONCHOSCOPY, LEFT VIDEO ASSISTED 
THORACOSCOPY SURGERY, LEFT UPPER LOBECTOMY. For full details 
please see operative report. Following his operation his diet 
was advanced as tolerated to regular. His pain was controlled 
initially with IV meds and ultimately PO meds alone at the time 
of discharge. His chest tube was removed on POD1. At the time of 
discharge, his vital signs were stable, he was ambulating and 
voiding. He was discharged to home with plans to follow up as an 
outpatient. The discharge plan was discussed with the patient 
who expressed understanding and agreement. 
 
Medications on Admission:
ALLOPURINOL - allopurinol ___ mg tablet. 1 tablet(s) by mouth
once daily
ATORVASTATIN - atorvastatin 20 mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY
HYDROCODONE-ACETAMINOPHEN - hydrocodone 7.5 mg-acetaminophen 325
mg tablet. ___ tablet(s) by mouth once a day
METOPROLOL SUCCINATE - metoprolol succinate ER 50 mg
tablet,extended release 24 hr. TAKE 2 TABLETS BY MOUTH EVERY DAY
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1
CAPSULE BY MOUTH ONCE DAILY(20 MINUTES PRIOR TO LARGEST MEAL)
 
Medications - OTC
ASPIRIN [ADULT ASPIRIN REGIMEN] - Adult Aspirin Regimen 81 mg
tablet,delayed release. 1 tablet(s) by mouth daily -  
(Prescribed
by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000
unit capsule. 1 capsule(s) by mouth once daily -  (Prescribed by
Other Provider)
MAGNESIUM - magnesium 200 mg tablet. 2 tablet(s) by mouth daily 
-
(Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain Duration: 24 Hours 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN constipation if unrelieved by 
Milk of Magnesia 
RX *bisacodyl 5 mg ___ tablet(s) by mouth at bedtime as needed 
for constipation Disp #*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
Take with food 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*40 Tablet Refills:*0 
5.  Milk of Magnesia 30 mL PO HS:PRN constipation  
6.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
7. Allopurinol ___ mg once daily
8. Atoravstatin 20 mg once daily
9. Metoprolol Succinate ER 50mg 2 tablets once daily
10. Omeprazole 20 mg Once daily
11. Aspirin 81 mg once daily
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lung mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

 * You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol  ___ mg every 6 hours .  

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 

 
 
Followup Instructions:
___